US08076478B2
(2) Synthesis of N,N,N′,N′-tetrakis(3-aminopropyl)-1,6-hexanediamine
16.42 g of N,N,N′,N′-tetrakis(2-cyanoethyl)-1,6-hexanediamine, 1.64 g of Raney Co and 90 mL of 1,4-dioxane were charged in an autoclave and a hydrogenation reaction was carried out at an initial hydrogen pressure of 9.0 MPa at 180° C. for 2.5 hours. After the catalyst was removed by filtration, the obtained filtrate was concentrated to dryness to give 15.24 g of the title compound.

reactant | N,N,N′,N′-tetrakis(2-cyanoethyl)-1,6-hexanediamine | 16.42 g | C(#N)CCN(CCCCCCN(CCC#N)CCC#N)CCC#N | C18H28N6
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxane | 90 mL | O1CCOCC1 | C4H8O2
product | N,N,N′,N′-tetrakis(3-aminopropyl)-1,6-hexanediamine | 15.24 g | NCCCN(CCCCCCN(CCCN)CCCN)CCCN | C18H44N6
